US08168794B2
Method 1 was followed using 1 eq each of 4-chloro-3-nitropyridine, (S)-3-N-Boc-amino piperidine and diisopropylethylamine yielding (S)-tert-butyl 1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate, (99%). LCMS (m/z): 323.1 (MH+); LC Rt=2.13 min.

reactant | 4-chloro-3-nitropyridine | 1 eq | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | (S)-3-N-Boc-amino piperidine | CC(C)(C)OC(=O)N[C@H]1CCCNC1 | C10H20N2O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (S)-tert-butyl 1-(3-nitropyridin-4-yl)piperidin-3-ylcarbamate | 99% | [N+](=O)([O-])C=1C=NC=CC1N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C15H22N4O4
